US05514680
A solution of 2-amino-5-chlorobenzotrifluoride (1.01 g, 5.16 mmol, Aldrich) in acetic anhydride (5 mL) was stirred at room temperature for 12 h to produce white needle precipitate. It was filtered to give 1.123 g (91.7%) of 2-acetamido-5-chlorobenzotrifluoride. 1H NMR (CDCl3): δ2.214 (s, 3H); 7.359 (br, 1H); 7.512 (d, 1H, J=9 Hz), 7.581 (s, 1H); 7.163 (d, 1H, J=8.4 Hz).

reactant | 2-amino-5-chlorobenzotrifluoride | 5.16 mmol, 1.01 g | NC1=C(C=C(C=C1)Cl)C(F)(F)F | C7H5ClF3N
reactant | acetic anhydride | 5 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetamido-5-chlorobenzotrifluoride | 1.123 g, 91.7% | C(C)(=O)NC1=C(C=C(C=C1)Cl)C(F)(F)F | C9H7ClF3NO
